US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxy)-5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-2,4-pyrimidinediamine, 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(methoxycarbonyl)benzofuran-5-yl]-2,4-pyrimidinediamine was reduced with DIBALH to yield 5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.37 (s, 1H), 9.17 (s, 1H), 9.12 (s, 1H), 8.06 (d, 1H, J=3.9 Hz), 8.01 (d, 1H, J=1.8 Hz), 7.41–7.35 (m, 2H), 7.26 (d, 1H, J=8.1 Hz), 7.11–7.05 (m, 2H), 6.60 (s, 1H), 6.51 (dd, 1H, J=2.4 and 8.4 Hz), 5.41 (t, 1H, J=6.0 Hz), 4.51 (d, 2H, J=5.7 Hz); LCMS: ret. time: 16.21 min.; purity: 95%; MS (m/e): 367 (MH+).

reactant | N4-(3,4-ethylenedioxy)-5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-2,4-pyrimidinediamine | C1ON2C(=NC=C(C2(N)OC1)F)NC=1C=CC2=C(C=C(O2)CO)C1 | C15H15FN4O4
reactant | 5-fluoro-N4-(3-hydroxyphenyl)-N2-[2-(methoxycarbonyl)benzofuran-5-yl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1)NC1=CC(=CC=C1)O | C20H15FN4O4
reactant | DIBALH | CC(C)C[AlH]CC(C)C
product | 5-fluoro-N2-[2-(hydroxymethyl)benzofuran-5-yl]-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)CO)C1)NC1=CC(=CC=C1)O | C19H15FN4O3
